US04416895
(b) Preparation of 1-[2-(2-Naphthyl)ethyl]imidazole
A mixture of imidazole (1.02 g, 0.015 mol), 2-(2-bromoethyl)naphthalene (3.53 g, 0.015 mol) and potassium tert-butoxide (1.68 g, 0.015 mol) in dry butan-1-ol (100 ml) was stirred and heated under reflux for 29 h.

reactant | imidazole | 0.015 mol, 1.02 g | N1C=NC=C1 | C3H4N2
reactant | 2-(2-bromoethyl)naphthalene | 0.015 mol, 3.53 g | BrCCC1=CC2=CC=CC=C2C=C1 | C12H11Br
reactant | potassium tert-butoxide | 0.015 mol, 1.68 g | CC(C)([O-])C.[K+]
solvent | butan-1-ol | 100 ml | C(CCC)O | C4H10O
product | 1-[2-(2-Naphthyl)ethyl]imidazole | C1=C(C=CC2=CC=CC=C12)CCN1C=NC=C1 | C15H14N2
